US07786129B2
3-{4-[4-(4-Chlorophenyl)-piperazin-1-yl]-butyl}-3-ethyl-1,3-dihydro-2H-indol-2-one
The title compound is prepared according to process H by applying processing method 1 starting from 3-(4-chlorobutyl)-3-ethyl-1,3-dihydro-2H-indol-2-one and 1-(4-chlorophenyl)-piperazine.

reactant | 3-(4-chlorobutyl)-3-ethyl-1,3-dihydro-2H-indol-2-one | ClCCCCC1(C(NC2=CC=CC=C12)=O)CC | C14H18ClNO
reactant | 1-(4-chlorophenyl)-piperazine | ClC1=CC=C(C=C1)N1CCNCC1 | C10H13ClN2
product | 3-{4-[4-(4-Chlorophenyl)-piperazin-1-yl]-butyl}-3-ethyl-1,3-dihydro-2H-indol-2-one | ClC1=CC=C(C=C1)N1CCN(CC1)CCCCC1(C(NC2=CC=CC=C12)=O)CC | C24H30ClN3O
